US05041543
1-(3-Azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-2-(1H)-pyrimidinone
1-(5-O-Acetyl-3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-4-(1,2,4-triazol-1-yl)-2-(1H)-pyrimidinone (0.5 g, 1.4 mMol) was dissolved in CH3CN (10 mL) and treated with 85% hydrazine hydrate (0.105 g, 2.1 mMol) for 30 minutes at ambient temperature, analogous to the procedure described in D. Cech and A. Holy, Coll. Czech. Chem. Comm. 42, 2246 (1977). The solvents were evaporated in vacuo and the residue chromatographed on silica gel with 9:1 CHCl3 /MeOH (v/v) as the eluting solvent. Collection and evaporation of appropriate fractions yielded a solid. The solid was dissolved in EtOH (50 mL) containing Ag2O (0.35 g, 1.5 mMol, 1.5 eq) and refluxed for 90 minutes. Filtration of the hot suspension through a bed of celite followed by removal of solvents in vacuo gave a solid. The solid was chromatographed on silica gel and eluted with 20:1 CHCl3 /MeOH (v/v). Combination and evaporation of appropriate fractions gave a solid which was dissolved in NH3 -saturated MeOH (50 mL) for 3 hours. Evaporation of the solvents in vacuo yielded an oil which was chromatographed on silica gel eluted with 20:1 CHCl3 /MeOH (v/v). The appropriate fractions were combined and solvents evaporated in vacuo to give an oil which slowly solidified upon standing: mp =62°-63° C.; UV (nm): at ph 1λmax =326, 212 (ε=7700, 13000), λmin =263(ε=200); at pH 13λmax 322,218(ε=22700, 10800), λmin =246 (ε=400); H'NMR: (DMSO-d6) δ8.46(d, 1H, H4, J=3.28 Hz), 8.28(d, 1H, H6, J=3.23 Hz), 6.00(t, 1H, H1', J=5.08 Hz), 5.31(t, 1H, 5'OH, J=5.12 Hz), 4.4-4.3(m, 1H, H3 '), 3.95-3.89(m, 1H, H4 '), 3.8-3.6(m, 2H, H5 '), 2.5-2.3(m, 2H, H2 '), 2.03(s, 3H, 5-CH3).

reactant | 1-(5-O-Acetyl-3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-4-(1,2,4-triazol-1-yl)-2-(1H)-pyrimidinone | 1.4 mMol, 0.5 g | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(N=C(C(=C1)C)N1N=CN=C1)=O)N=[N+]=[N-] | C14H16N8O4
reactant | hydrazine hydrate | 2.1 mMol, 0.105 g | O.NN
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | NH3 | 50 mL | N | H3N
product | 1-(3-Azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-2-(1H)-pyrimidinone | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(N=CC(=C1)C)=O | C10H13N5O3
